US04004018
Ethanedithiol (94 g) and acetophenone (120 g, 1 mole) were dissolved in benzene (500 ml), a trace of pTSA added and the solution refluxed under a Dean-Stark trap for 16 hours, until no more water collected. The solution was cooled, washed with ice-cold dilute caustic soda, then water, and reduced in volume to a viscous, colorless, or yellowish oil. This was distilled under vacuum to give 2-methyl-2-phenyl-1,3-dithiolane as a colorless oil with an unpleasant odor, yield 120 g (61%).

reactant | Ethanedithiol | 94 g | C(C)(S)S | C2H6S2
reactant | acetophenone | 1 mole, 120 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | pTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-methyl-2-phenyl-1,3-dithiolane | CC1(SCCS1)C1=CC=CC=C1 | C10H12S2
